US04432786
In this example, a mixture containing 4.0 gms (0.02 mol) of 5,5-dimethyl-3-hydroxy-2-propionylcyclohex-2-en-1-one and 3.6 gms (0.022 mol) of O-[(5-chlorothien-2-yl)methyl]hydroxylamine in 75 mls of ethanol was stirred at room temperature for about 12 hours. The mixture was then evaporated to remove the ethanol, affording a thick syrup. The syrup was then dissolved in methylene chloride and extracted twice with aqueous 5% wt. sodium hydroxide. The aqueous layer was separated and acidified with concentrated hydrochloric acid and then extracted twice with methylene chloride. The methylene chloride layer was separated, dried with magnesium sulfate, and filtered. The filtrate was evaporated under vacuum, affording a viscous liquid which was then purified via column chromatography eluting with tetrahydrofuran-hexane (1:2 vol. ratio) affording 4.8 gms of 2-{1-[(5-chlorothien-2-ylmethoxy)imino]propyl}-3-hydroxy-5,5-dimethylcyclohex-2-en-1-one.

reactant | 5,5-dimethyl-3-hydroxy-2-propionylcyclohex-2-en-1-one | 0.02 mol, 4.0 gms | CC1(CC(=C(C(C1)=O)C(CC)=O)O)C | C11H16O3
reactant | O-[(5-chlorothien-2-yl)methyl]hydroxylamine | 0.022 mol, 3.6 gms | ClC1=CC=C(S1)CON | C5H6ClNOS
solvent | ethanol | 75 mls | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-{1-[(5-chlorothien-2-ylmethoxy)imino]propyl}-3-hydroxy-5,5-dimethylcyclohex-2-en-1-one | 4.8 gms | ClC1=CC=C(S1)CON=C(CC)C=1C(CC(CC1O)(C)C)=O | C16H20ClNO3S
